US07335799B2
Under Ar atmosphere, to a stirred suspension solution of LiBH4 (5.55 g, 95%, 0.24 mol) in dichloromethane (80 mL) was added dropwise methanol (9.8 mL, 0.24 mol), keeping a gentle reflux while hydrogen gas was formed. The mixture was stirred for 30 min at 45° C. To this solution was added dropwise a solution of 7-bromo-2,2-dimethylheptanoic acid ethyl ester (43 g, 0.15 mol) in dichloromethane (120 mL) at such a rate as to maintain a gentle reflux. The reaction mixture was heated at reflux for 20 h, cooled to room temperature and carefully hydrolyzed with 6 N hydrochloric acid (30 mL) and saturated ammonium chloride solution (360 mL). The aqueous layer was extracted with dichloromethane (3×50 mL). The combined organic layers were washed with water (2□100 mL) and dried over anhydrous MgSO4. The reaction mixture was evaporated to yield crude 7-bromo-2,2-dimethylheptan-1-ol (36.2 g, 88%) as a colorless, viscous oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 3.41 (t, 2H, J=6.9 Hz), 3.30 (br. s, 2H), 1.90-1.84 (m, 3H), 1.42-1.22 (m, 6), 0.86 (s, 6H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 71.9, 38.6, 35.1, 34.1, 32.9, 29.2, 24.0, 23.2. HRMS (LSIMS, nba): Calcd. for C9H18Br (MH+−H2O): 205.0592, found: 205.0563.

reactant | LiBH4 | 0.24 mol, 5.55 g | [Li+].[BH4-]
reactant | methanol | 0.24 mol, 9.8 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
reactant | 7-bromo-2,2-dimethylheptanoic acid ethyl ester | 0.15 mol, 43 g | C(C)OC(C(CCCCCBr)(C)C)=O | C11H21BrO2
reactant | hydrochloric acid | 6 N, 30 mL | Cl | ClH
reactant | ammonium chloride | 360 mL | [Cl-].[NH4+]
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 7-bromo-2,2-dimethylheptan-1-ol | 36.2 g, 88% | BrCCCCCC(CO)(C)C | C9H19BrO
